Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([C:7]([H:8])[H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.5084998956
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.6359875
[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.86950691452
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:3],3.98167960047
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],4.637336712880001
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1],4.912809585030001
[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.9857577692
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:13].[O:12],8.38192573092
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[H:12],5.5711602734
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-0.64136805
[C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-5.36745733698
[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.69413275713
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.24136692632
[H:1][C:2][O:3][C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.63108652055
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.58518669166
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.03780750244
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9](=[O:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:11].[O:10],7.685334189380001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][H:4],0.951202929999
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.32481762003
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.28340370095
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5],2.46779363457
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-5.06056729453
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],1.11622892213
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15],-1.41124890256
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.7572730963
[C:1]#[C:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.13549998636
[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[C:7](=[O:8])[H:9]>>[C:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7](=[O:8])[H:9],-4.31949255425
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][H:10],1.90391522417
